US07335649B2
c) 6-(5-chloro-2-hydroxy-3-nitrophenyl)-pyridine-2-carboxylic acid;:
To the solution of 6-(5-chloro-2-hydroxyphenyl)-pyridine-2-carboxylic acid; (2.3 g, 10.1 mmol) in 100 ml acetic acid; was added 1 ml fuming nitric acid; and stirred at 35° C. to 40° C. for half an hour. The reaction mixture was diluted with water and adjusted pH to 2.5. The resulting preciptation was collected, washed and dried to give solid (2.74 g; 78%, three steps). MS(ES) m/z 295 [M+H]. d) 3-Aza-3′-{N′-[1-(4-tert-butylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene]hydrazino}-2′-hydroxybiphenyl-5-carboxylic acid; Following the procedure of Example 1c), except substituting the compound of 4c) for the compound of 1b), the crude product was isolated. A suspension of the crude product (0.0015 mol.) in 1M aqu. hydrochloric acid; (25.0 mL) was cooled to 5° C. then treated dropwise with a solution of sodium nitrite (0.11 g; 0.0015 mol.) in water (5.0 mL). The yellow mixture was stirred at 5° C. for a further 10 min. then treated in one portion with the compound from Example 3a) (0.34 g, 0.0015 mol.) followed by the portion-wise addition of sodium hydrogen carbonate and ethanol ensuring the final pH of the reaction mixture is approximately 7-8. The red solution was then stirred at room temperature for 24 h. The mixture was filtered to give a red solid which was slurried in water (50.0 mL) and then acid;ified with concentrated hydrochloric acid;. Filtration afforded the title compound (0.2 g; 29%) as a powder. 1H NMR (300 MHz, d6-DMSO) δ 13.8 (br, 2H), 9.9 (s, 1H), 9.08 (s, 1H), 8.9 (s, 1H), 8.4 (s, 1H), 7.82 (d, J=7.7 Hz, 2H), 7.75 (d, J=7.9 Hz, 1H), 7.50 (d, J=7.0 Hz, 2H), 7.20 (m, 2H), 2.34 (s, 3H), 1.32(s, 9H) MS(ES) m/z 472 (M+H)+.

reactant | 6-(5-chloro-2-hydroxyphenyl)-pyridine-2-carboxylic acid | ClC=1C=CC(=C(C1)C1=CC=CC(=N1)C(=O)O)O | C12H8ClNO3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 0.0015 mol, 0.11 g | N(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 5.0 mL | O | H2O
solvent | water | 50.0 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 6-(5-chloro-2-hydroxy-3-nitrophenyl)-pyridine-2-carboxylic acid | 0.2 g, 29% | ClC=1C=C(C(=C(C1)C1=CC=CC(=N1)C(=O)O)O)[N+](=O)[O-] | C12H7ClN2O5
